US08563717B2
Intermediate 15: 1,1-Dimethylethyl (3R)-3-(bromomethyl)-1-piperidinecarboxylate
Tetrabromomethane (1.23 g) was added to a solution of 1,1-dimethylethyl (3R)-3-(hydroxymethyl)-1-piperidinecarboxylate (500 mg) in methylene chloride (2.7 mL). The reaction mixture was cooled to 0° C. and a solution of triphenylphosphine (731 mg) in methylene chloride (2.7 mL) was slowly added. After 1 hour at 0° C., the reaction mixture was concentrated and directly purified by chromatography on silica gel eluting with heptane/ethyl acetate 1:15 followed 1:10 to yield the title compound as a slightly yellow oil (627 mg).

reactant | Tetrabromomethane | 1.23 g | BrC(Br)(Br)Br | CBr4
reactant | 1,1-dimethylethyl (3R)-3-(hydroxymethyl)-1-piperidinecarboxylate | 500 mg | OC[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C11H21NO3
reactant | triphenylphosphine | 731 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 2.7 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2.7 mL | C(Cl)Cl | CH2Cl2
product | 1,1-Dimethylethyl (3R)-3-(bromomethyl)-1-piperidinecarboxylate | BrC[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C11H20BrNO2
